US07163951B2
A solution of 2,4-dichloro-6-hydroxybenzoate (4.64 g, 20.99 mmol) and pyridine (1.87 mL, 23.09 mmol) in 100 mL CH2Cl2 was cooled to 0° C. Trifluoromethanesulfonic acid (4.94 mL, 29.39 mmol) was added, and the solution was stirred for 2 h. The reaction mixture was washed with aqueous sodium bicarbonate, aqueous copper sulfate and brine, dried over Na2SO4, filtered and concentrated to provide methyl 2,4-dichloro-6-{[(trifluoromethyl)sulfonyl]oxy}-benzoate that gave proton NMR spectra consistent with theory.

reactant | 2,4-dichloro-6-hydroxybenzoate | 20.99 mmol, 4.64 g | ClC1=C(C(=O)[O-])C(=CC(=C1)Cl)O
reactant | pyridine | 23.09 mmol, 1.87 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic acid | 29.39 mmol, 4.94 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2,4-dichloro-6-{[(trifluoromethyl)sulfonyl]oxy}-benzoate | ClC1=C(C(=O)OC)C(=CC(=C1)Cl)OS(=O)(=O)C(F)(F)F | C9H5Cl2F3O5S
